US04183923
3-(3-p-Toluenesulfonyloxy-1-Azetidinyl)-5α-Cholestane
To a nitrogen blanketed, ice-cooled, stirred suspension of 1.08 g of 35% potassium hydride in mineral oil in 58 ml dry tetrahydrofuran and 2-3 ml triglyme add 3.49 g 3-(3-hydroxy-1-azetidinyl)-5α-cholestane (a mixture of the 3α- and 3β-epimers). Continue stirring the mixture for 5 days at room temperature, adding an additional 80 ml dry tetrahydrofuran after the first 24 hours. After 5 days add a solution of 1.52 g of p-toluenesulfonyl chloride in 10 ml tetrahydrofuran and stir one hour. Destroy the excess potassium hydride by the cautious addition of approximately 70 ml of water-saturated ethyl ether; then, add 350 ml water and saturate with sodium chloride. Extract once with 300 ml ethyl ether and then twice with 150 ml portions of ethyl ether. Combine the etheral extracts, dry over anhydrous sodium sulfate, and acidify the solution with a solution of 0.93 g maleic acid in 50 ml ethyl ether. Filter the crude maleate salt and triturate with 150 ml hexane. Dissolve the triturated material in 20 ml methylene chloride and treat the solution with decolourizing carbon. Filter the carbon and dilute the filtrate with 250 ml isopropyl ether. Concentrate the solution in vacuo until a precipitate begins to form. Filter the precipitate to obtain the maleate salt of the title compound, m.p. 105°-109° C. dec. (a mixtuer of 3α- and 3β- epimers).

reactant | potassium hydride | 1.08 g | [H-].[K+]
reactant | triglyme | 2-3 ml | COCCOCCOCCOC | C8H18O4
reactant | 3-(3-hydroxy-1-azetidinyl)-5α-cholestane | 3.49 g | OC1CN(C1)C1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C30H53NO
reactant | p-toluenesulfonyl chloride | 1.52 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | tetrahydrofuran | 58 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 3-(3-p-Toluenesulfonyloxy-1-Azetidinyl)-5α-Cholestane | C1(=CC=C(C=C1)S(=O)(=O)OC1CN(C1)C1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)C | C37H59NO3S
